US08067590B2
11a 5-(2-Methanesulfonyloxy-ethyl)-thiophene-2-carboxylic Acid Methyl Ester
To a solution of 300 mg (1.61 mmol) 5-(2-hydroxy-ethyl)-thiophene-2-carboxylic acid methyl ester in 10 mL DCM is added 0.90 mL triethylamine (6.44 mmol) and subsequently 312 μL (4.03 mmol) methanesulfonyl chloride at RT. The reaction mixture is stirred 1 h at RT and is diluted with 50 mL DCM. The organic phase is separated, washed three times with water and is dried over MgSO4. After filtration and evaporation of the solvent, the product is afforded.

reactant | 5-(2-hydroxy-ethyl)-thiophene-2-carboxylic acid methyl ester | 1.61 mmol, 300 mg | COC(=O)C=1SC(=CC1)CCO | C8H10O3S
reactant | triethylamine | 6.44 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.03 mmol, 312 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Methanesulfonyloxy-ethyl)-thiophene-2-carboxylic Acid Methyl Ester | COC(=O)C=1SC(=CC1)CCOS(=O)(=O)C | C9H12O5S2
